US08420690B2
A solution of methyl 1-methyl-1H-pyrrole-3-carboxylate (690 mg, 4.96 mmol) and NBS (883 mg, 4.96 mmol) in tetrahydrofuran (24.800 ml) was stirred at 25° C. for 1 h. The solution was then partitioned between H2O-DCM and the aqueous phase was washed several times with DCM. The combined organic fractions were dried over Na2SO4, concentrated and purified via column chromatography (10-50% EtOAc in hexanes) affording methyl 5-bromo-1-methyl-1H-pyrrole-3-carboxylate (950 mg, 3.92 mmol, 79% yield) as an orange solid: LCMS (ES) m/e 218, 220 (M, M+2)+.

reactant | methyl 1-methyl-1H-pyrrole-3-carboxylate | 4.96 mmol, 690 mg | CN1C=C(C=C1)C(=O)OC | C7H9NO2
reactant | NBS | 4.96 mmol, 883 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | tetrahydrofuran | 24.800 ml | O1CCCC1 | C4H8O
product | methyl 5-bromo-1-methyl-1H-pyrrole-3-carboxylate | 3.92 mmol, 950 mg, 79% yield | BrC1=CC(=CN1C)C(=O)OC | C7H8BrNO2
